US07018988B2
(2S,4EZ)-1-benzoyl-4-(chloromethylene)-N-(9-ethyl-9H-carbazol-3-yl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(chloromethylene)-2-pyrrolidinecarboxylic acid, benzoyl chloride, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained in 48% purity by LC/MS. MS(ESI+): m/z=458.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(chloromethylene)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=CCl)C(=O)O | C11H16ClNO4
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S,4EZ)-1-benzoyl-4-(chloromethylene)-N-(9-ethyl-9H-carbazol-3-yl)-2-pyrrolidinecarboxamide | C(C1=CC=CC=C1)(=O)N1[C@@H](CC(C1)=CCl)C(=O)NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C27H24ClN3O2
